US07855216B2
Step 3: 7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A solution of 7-fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (500 mg, 1.28 mmol) in CH2Cl2 (15 mL) was cooled to 0-5° C. and treated dropwise with iodine monochloride solution (2.6 mL, 1M in CH2Cl2). The mixture was stirred at 0-5° C. for one hour and then quenched by addition of a saturated aqueous sodium thiosulfate solution (10 mL). The mixture was diluted with water and dichloromethane. The precipitate formed was filtered off, washed with diethyl ether and dried under vacuum at 50° C. to give the title compound as a yellow solid (218 mg, 38%). LCMS (method B): RT=2.87 min, M+H+= 444.

reactant | 7-fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.28 mmol, 500 mg | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H21F2N3O2Si
reactant | iodine monochloride | 1M, 2.6 mL | ICl | ClI
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 218 mg, 38% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)F)NC1=C(C=C(C=C1)I)F | C16H12F2IN3O2
